US07655701B2
Cyclopentylidene-o-tolyl-acetonitrile
The procedure outlined in example 1 is repeated with cyclopentanone (14.3 g, 0.17 mol), o-tolylacetonitrile (13.1 g, 0.10 mol) and KOH (1.12 g, 0.02 mol). Short path distillation of the crude at 0.05 mbar/124-130° C. yields 5.30 g (27% yield). The product is contaminated with α,α′-dicyclopentylidenecyclopentanone. It is further purified by FC on SiO2 to yield 2.3 g of oily product (10% yield).

reactant | cyclopentanone | 0.17 mol, 14.3 g | C1(CCCC1)=O | C5H8O
reactant | o-tolylacetonitrile | 0.10 mol, 13.1 g | C1(=C(C=CC=C1)CC#N)C | C9H9N
reactant | KOH | 0.02 mol, 1.12 g | [OH-].[K+]
product | Cyclopentylidene-o-tolyl-acetonitrile | 2.3 g, 10% yield | C1(CCCC1)=C(C#N)C1=C(C=CC=C1)C | C14H15N
